US04506001
Synthesis of 5,8-dihydroxyquinoxaline [Compound (I-85)]
4 g (0.021 mol) of 5,8-dimethoxyquinoxaline was refluxed for 2 hours under heating in 50 ml of benzene together with 20 g of aluminum chloride. After allowing to cool to room temperature, the reaction solution was extracted with ethyl acetate, and the extract was dried and concentrated. Recrystallization of the residue from ethyl acetate gave 2.4 g (71%) of the end product. m.p. 234°-236° C.

reactant | 5,8-dimethoxyquinoxaline | 0.021 mol, 4 g | COC1=C2N=CC=NC2=C(C=C1)OC | C10H10N2O2
reactant | aluminum chloride | 20 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5,8-dihydroxyquinoxaline | 2.4 g, 71% | OC1=C2N=CC=NC2=C(C=C1)O | C8H6N2O2
